US06420359B1
b) 3-Amino-6chloro-2-(ethylamino)pyridine
A solution of SnCl2.H2O (616.3 g, 2.73 mol) in aqueous 12 N HCl (500 mL) was rapidly added to a solution of 6-chloro-2-(ethylamino)-3-nitropyridine (169.5 g, 0.84 mol) in AcOH (1.7 L) at room temperature. After 20 min, the mixture was cooled to 0° C. and water (250 mL) was added. Solid NaOH (240 g) was then added in small portions. The resulting suspension was filtered to remove tin salts. The filtrate was diluted with water (3.5 L), the solution rendered basic by addition of aqueous 10 N NaOH and then extracted with EtOAc (3×1.7 L). The combined organic layers were washed with brine (1 L), dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (hexane:EtOAc, 3:2) to give the title compound (89.9 g, 62% yield) as a brown solid: MS (ESI) m/z 172/174 (MH)+.

reactant | SnCl2.H2O | 2.73 mol, 616.3 g | Cl[Sn]Cl.O
reactant | 6-chloro-2-(ethylamino)-3-nitropyridine | 0.84 mol, 169.5 g | ClC1=CC=C(C(=N1)NCC)[N+](=O)[O-] | C7H8ClN3O2
reactant | water | 250 mL | O | H2O
reactant | NaOH | 240 g | [OH-].[Na+]
solvent | HCl | 12 N, 500 mL | Cl | ClH
solvent | AcOH | 1.7 L | CC(=O)O | C2H4O2
product | 3-Amino-6chloro-2-(ethylamino)pyridine | 89.9 g, 62% yield | NC=1C(=NC(=CC1)Cl)NCC | C7H10ClN3
